### PR TITLE
feat(lattice): add lattice tactic

### PR DESCRIPTION
**Pull request by cmr**
This tactic is based on http://www.sciencedirect.com/science/article/pii/089054018890048X.
I have not tested extensively, but it does seem to be good enough
to solve the theorems I threw at it without a full implementation
of their ALG (pg 8 of the PDF).

### CODE REVIEW

File: algebra/lattice/tactic.lean [hunk 1]
```diff
@@ -0,0 +1,53 @@
...
+private lemma la4 : s ≤ p → s ≤ q → s ≤ p ⊓ q := le_inf
+
+@[lattice_simp]
+private lemma la5 : s ≤ p ∨ s ≤ q → s ≤ p ⊔ q := begin intro h, cases h,
+    exact le_sup_left_of_le a,
+    exact le_sup_right_of_le a,
+end
+
+@[lattice_simp]
+private lemma la6 : p ≤ s → s ≤ q → p ≤ q := take h1 h2, weak_order.le_trans p s q h1 h2
```
Comment (johoelzl) [inline algebra/lattice/tactic.lean]: I don't think the simplifier can handle this transitivity rule. When the simplifier tries to apply it, `s` will be instantiated with a meta variable `?s`. Then the first rule `la1` could successfully match, but actually it needs to unify so I'm not sure if this works.

File: algebra/lattice/tactic.lean [hunk 2]
```diff
@@ -0,0 +1,53 @@
...
+@[lattice_simp]
+private lemma la7 : p = q → p ≤ q ∧ q ≤ p := take h1, begin split,
```
Comment (johoelzl) [inline algebra/lattice/tactic.lean]: The simplifier does not do any forward reasoning. All it will try is to rewrite `p = q`, which is done anyway. When the simplifier can rewrite `p = t` and `q = t` then the right hand side is obviously solved by `la1`

**Comment by johoelzl** [comment]
Can you add a list of examples you tried? As far as I understand the simplifier some of your rules do not apply...

**Comment by cmr** [comment]
I admit I do not understand the simplifier yet. Here are the examples I tried:

```
section

variable {α : Type}
variable [lattice α]
variables (p q s : α)

-- do the usual axioms follow?
example : (p ⊓ q) ⊓ s ≤ p ⊓ (q ⊓ s) := by lattice
example : (p ⊔ q) ⊔ s ≤ p ⊔ (q ⊔ s) := by lattice
example : p ⊔ q ≤ q ⊔ p := by lattice
example : p ⊓ q ≤ q ⊓ p := by lattice
example : p ⊓ p = p := by lattice
example : p ⊔ p = p := by lattice
example : p ⊔ (p ⊓ q) ≤ p := by lattice
example : p ⊓ (p ⊔ q) ≤ p := by lattice

-- median property
example : (p ⊓ q) ⊔ (q ⊓ s) ⊔ (q ⊓ p) ≤ (p ⊔ q) ⊓ (q ⊔ s) ⊓ (s ⊔ p) := by lattice
-- slightly rephrased
example : (p ⊓ q) ⊔ (q ⊓ p) ⊔ (q ⊓ s) ≤ (s ⊔ p) ⊓ (p ⊔ q) ⊓ (s ⊔ q) := by lattice

end
```

File: algebra/lattice/tactic.lean (hunk 1 above)
Comment (cmr) [inline algebra/lattice/tactic.lean]: You're right, it can't handle this.

**Comment by johoelzl** [comment]
I think this kind of setup should be integrated into `auto`. But quite likely not as its own Lean tactic, but by setting up the right rules. Using `unsafe` rules (i.e. rules with backtracking) the transitivity rules could work (but are in general quite dangerous, as they may easily result in a non-terminating search).

I guess `super` also handles these kind of theorems by passing the right lattice theorems.

If you want a decision procedure you will not come around to actually implement the method presented by Cosmadakis. If you want to tests a method like this you surely also need to test rules with assumptions, like: `r ≤ (p ⊓ q) → p ≤ r → p = r`.

**Comment by avigad** [comment]
It sounds like the tactic is not ready for prime time, so let's close this for now.
